US04751228
2.1 g (70 mMole) sodium hydride (80% in oil) are suspended in 100 ml dry dimethylformamide and, while stirring at ambient temperature, 20 g (63 mMole) ethy (±)-1,4,5,6-tetrahydro-2-methyl-5-oxo-4-(2-thienyl)-1,6-naphthyridine-3-carboxylate are added thereto portionwise. After cessation of the gas evolution, the reaction mixture is further stirred for 30 minutes at ambient temperature. 16 g (94 mMole) isopropyl iodide in 30 ml diemthylformamide are then added thereto. The reaction mixture is stirred for two days at ambient temperature, the solvent is removed in a vacuum and the residue is taken up with water and ethyl acetate. After shaking up, the ethyl acetate phase is separated off and dried over anhydrous magnesium sulphate. After distilling off the solvent, the residue obtained is separated chromatographically on silica gel with toluene/ethyl acetate (3:1 v/v). The fraction with the Rf of 0.3 is isolated and recrystallized from n-hexane. There is obtained ethyl (±)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-thienyl)-1,6-naphthyridine-3 -carboxylate in the form of colorless crystals; mp 110°-111° C.

reactant | sodium hydride | 70 mMole, 2.1 g | [H-].[Na+]
reactant | ethy (±)-1,4,5,6-tetrahydro-2-methyl-5-oxo-4-(2-thienyl)-1,6-naphthyridine-3-carboxylate | 63 mMole, 20 g | CC=1NC=2C=CNC(C2C(C1C(=O)OCC)C=1SC=CC1)=O | C16H16N2O3S
reactant | isopropyl iodide | 94 mMole, 16 g | C(C)(C)I | C3H7I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl (±)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-thienyl)-1,6-naphthyridine-3 -carboxylate | C(C)(C)OC1=C2C(C(=C(NC2=CC=N1)C)C(=O)OCC)C=1SC=CC1 | C19H22N2O3S
